US07368578B2
To a solution of 4-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)morpholine (1.0 g) in methanol (20 mL) was added concentrated hydrochloric acid (0.4 mL) at room temperature, and stirred at 50° C. for 1.5 hrs. The reaction mixture was evaporated under reduced pressure, and the residue was washed with ethyl acetate-methanol to give 4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-ol.hydrochloride (0.98 g, yield 100%) as gray crystals. melting point: 278-279° C.

reactant | 4-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)morpholine | 1.0 g | COCOC1=NN(C=C1/C=C/C=1N=C(SC1C)N1CCOCC1)C1=CC=CC=C1 | C21H24N4O3S
reactant | hydrochloric acid | 0.4 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 0.98 g, yield 100% | Cl.CC1=C(N=C(S1)N1CCOCC1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C19H20N4O2S.ClH/c1-14-17(20-19(26-14)22-9-11-25-12-10-22)8-7-15-13-23(21-18(15)24)16-5-3-2-4-6-16;/h2-8,13H,9-12H2,1H3,(H,21,24);1H/b8-7+;
